US08183239B2
N,N-Diethyl-2-(4-{2-fluoro-4-[2-oxo-2-(2-phenyl-piperidin-1-yl)-ethyl]-phenyl}-piperazin-1-yl)-2-phenyl-acetamide
A solution of 2-(4-chloro-3-fluoro-phenyl)-1-(2-phenyl-piperidin-1-yl)-ethanone (0.25 g, 0.75 mmol), N,N-diethyl-2-phenyl-2-piperazin-1-yl-acetamide (0.23 g, 0.82 mmol), Pd2(dba)3 (0.01 g, 0.0075 mmol), XPhos (0.01 g, 0.015 mmol), and sodium t-butoxide (0.11 g, 1.05 mmol) in toluene (2 mL) was irradiated by microwave at 120° C. for 20 min. The solution was allowed to cool, filtered through diatomaceous earth, washing with DCM (10 mL). The filtrate was concentrated and the residue was purified by SiO2 column chromatography (2 M NH3 in MeOH:DCM) to provide the title compound (0.07 g, 16%). MS: 571.7. 1H NMR (CDCl3): 7.48-7.46 (m, 2H), 7.38-7.35 (m, 4H), 7.28-7.23 (m, 2H), 7.19-7.15 (m, 4H), 6.90-6.89 (m, 2H), 3.70 (bs, 2H), 3.49-3.40 (m, 6H), 3.31-3.12 (m, 8H), 2.70-2.69 (m, 4H), 1.60-1.59 (m, 3H), 1.10-1.04 (m, 6H).

reactant | 2-(4-chloro-3-fluoro-phenyl)-1-(2-phenyl-piperidin-1-yl)-ethanone | 0.75 mmol, 0.25 g | ClC1=C(C=C(C=C1)CC(=O)N1C(CCCC1)C1=CC=CC=C1)F | C19H19ClFNO
reactant | N,N-diethyl-2-phenyl-2-piperazin-1-yl-acetamide | 0.82 mmol, 0.23 g | C(C)N(C(C(N1CCNCC1)C1=CC=CC=C1)=O)CC | C16H25N3O
reactant | XPhos | 0.015 mmol, 0.01 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium t-butoxide | 1.05 mmol, 0.11 g | CC(C)([O-])C.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0075 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N,N-Diethyl-2-(4-{2-fluoro-4-[2-oxo-2-(2-phenyl-piperidin-1-yl)-ethyl]-phenyl}-piperazin-1-yl)-2-phenyl-acetamide | 0.07 g, 16% | C(C)N(C(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)CC(N1C(CCCC1)C1=CC=CC=C1)=O)F)=O)CC | C35H43FN4O2
